** sch_path: /home/arthcodez/arth._1_Analog_Bootcamp/analog/build/schematic/tb_dc_analysis.sch
**.subckt tb_dc_analysis
x1 VDD net1 net3 net2 VSS bootcamp_opamp
VDIFF net1 net2 0
R1 VCM net1 1M m=1
R2 VCM net2 1M m=1
VDD VDD GND 1.8
VCM VCM GND 0.9
VSS VSS GND 0
**** begin user architecture code

blabla


.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/arthcodez/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/arthcodez/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/arthcodez/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/arthcodez/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  bootcamp_opamp.sym # of pins=5
** sym_path: /home/arthcodez/arth._1_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sym
** sch_path: /home/arthcodez/arth._1_Analog_Bootcamp/analog/schematics/bootcamp_opamp.sch
.subckt bootcamp_opamp VDD VIN_P VOUT VIN_N VSS
*.ipin VIN_P
*.ipin VIN_N
*.ipin VDD
*.ipin VOUT
*.ipin VSS
XM1 net1 VIN_P net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 VIN_N net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net5 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 VOUT net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 VOUT net5 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R2 net2 net4 1k m=1
C1 net4 VOUT 1p m=1
XM8 net5 net5 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 VDD net5 1k m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VCM
.GLOBAL VSS
.end
